US05464788
A mixture of ether (66 ml) and 40% aqueous potassium hydroxide (20 ml) was cooled in ice. N-Nitrosomethylurea (6.6 g) was added in portions with gentle swirling over 30 min. The ether layer was decanted and dried over solid potassium hydroxide for 15 min. The ether solution was decanted, and the decanted solution was cooled in an ice bath. A solution of 2-methoxy-4-(1-Boc-4-piperidyloxy)benzoyl chloride (3.26 g, 8.8 mmol) in THF (6 ml) was added dropwise and the mixture was stirred in the cold for 15 min and at ambient temperature for 3.5 hours. Nitrogen was passed through the mixture for 1 hour, and the solution was then concentrated in vacuo. A portion (930 mg) of the residue was dissolved in methanol and heated to reflux, and a solution of silver benzoate (200 mg) in triethylamine (2 ml) was added in five 0.1 ml portions at intervals of eight minutes. A sixth portion was added after an additional forty minutes' reflux, and after another five minutes, a seventh portion. After a final 30 minutes' reflux, the mixture was cooled and filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluted with 3%, followed by 5% methanol in methylene chloride. The product fractions were combined and evaporated to dryness in vacuo to give methyl 2-methoxy-4-(1-Boc-4-piperidyloxy)-phenylacetate.

reactant | ether | 66 ml | CCOCC | C4H10O
reactant | potassium hydroxide | 20 ml | [OH-].[K+]
reactant | N-Nitrosomethylurea | 6.6 g | N(=O)CNC(=O)N | C2H5N3O2
reactant | 2-methoxy-4-(1-Boc-4-piperidyloxy)benzoyl chloride | 8.8 mmol, 3.26 g | COC1=C(C(=O)Cl)C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C18H24ClNO5
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | methyl 2-methoxy-4-(1-Boc-4-piperidyloxy)-phenylacetate | COC1=C(C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)CC(=O)OC | C20H29NO6
